US04333942
(a) 4-Benzyl-1-methyl-4-(4-nitrophenoxy)piperidine
A solution of 40.0 g of 4-benzyl-1-methylpiperidin-4-ol in 120 ml of absolute dimethylformamide is added dropwise to a suspension of 8.76 g of sodium hydride (80% strength in oil) in 200 ml of absolute dimethylformamide, while stirring and with exclusion of moisture. During this addition, evolution of hydrogen occurs. When the addition has ended, the mixture is stirred at room temperature for 2 hours, 31.6 g of 4-fluoronitrobenzene are added dropwise thereto, and the mixture is stirred at 50° C. for a further 2 hours. The resulting brown reaction mixture is then poured into 350 ml of ice-water and is stirred for 30 minutes; a precipitate (which has separated out) is filtered off and washed with water and petroleum ether. This crude product is dissolved in 150 ml of boiling ethanol, decanted to remove undissolved material, treated with active charcoal and filtered. 100 ml of petroleum ether are added slowly to the cooled filtrate, and the formed precipitate is filtered off and washed with petroleum ether. 38.9 g of the cream-colored title compound of m.p. 116° to 117° C. are obtained by successive concentration of the filtrate.

reactant | 4-benzyl-1-methylpiperidin-4-ol | 40.0 g | C(C1=CC=CC=C1)C1(CCN(CC1)C)O | C13H19NO
reactant | sodium hydride | 8.76 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-fluoronitrobenzene | 31.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-Benzyl-1-methyl-4-(4-nitrophenoxy)piperidine | 38.9 g | C(C1=CC=CC=C1)C1(CCN(CC1)C)OC1=CC=C(C=C1)[N+](=O)[O-] | C19H22N2O3
